US08754053B2
690 mg of {4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-methanol was dissolved in 20 ml dichloromethane and one drop of N,N-dimethylformamide was then added. Thionylchloride (216 mg) was then added very slowly at room temperature. The mixture turned slight yellow before the end of the addition. The mixture was stirred for 3 hours at ambient temperature and then evaporated to dryness. The residue was dissolved in diethylether, washed with aqueous sodium bicarbonate, then with water and finally dried over anhydrous sodium sulfate. The organic phase was then evaporated to dryness affording 3-(4-chloromethyl-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole as a resinous product (99% yield), which was used immediately for the further step without purification. 1H-NMR (CDCl3, δ in ppm): 7.29-7.44 (m, 6H), 5.36 (s, 1H), 4.60 (s, 2H), 2.99 (s, 3H), 2.44 (s, 3H).

reactant | {4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-methanol | 690 mg | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(C=C1)CO)C)C(F)(F)F | C19H16Cl2F3NO2
reactant | Thionylchloride | 216 mg | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 3-(4-chloromethyl-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole | ClCC1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C | C19H15Cl3F3NO
